US05354549
(Phenylthio)methyl 4-methoxy-3-methylbenzoate
Cesium carbonate (13.00 g, 40.0 mmol) is added to a solution of 4-methoxy-3-methyl benzoic acid (6.65 g, 40.0 mmol) in dry DMF (50 ml) at ambient temperature. The mixture is stirred at 65° C. for 20 minutes and cooled to 0° C., before chloromethyl phenylsulfide (5.76 g, 36 mmol) in dry DMF (10 ml) is added dropwise. Stirring is continued at 0° C. for 30 minutes, then at ambient temperature for 2 hours and finally at 70° C. for 1 hour, before water is added and the product extracted into diethyl ether. The ether solution is washed with 1M sodium hydroxide and 4 times with brine, dried (MgSO4) and evaporated. The crude product is used in Intermediate 8 without further purification.

reactant | Cesium carbonate | 40.0 mmol, 13.00 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-methoxy-3-methyl benzoic acid | 40.0 mmol, 6.65 g | COC1=C(C=C(C(=O)O)C=C1)C | C9H10O3
reactant | chloromethyl phenylsulfide | 36 mmol, 5.76 g | ClCSC1=CC=CC=C1 | C7H7ClS
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (Phenylthio)methyl 4-methoxy-3-methylbenzoate | COC1=C(C=C(C(=O)OCSC2=CC=CC=C2)C=C1)C | C16H16O3S
